US06544989B2
Methyl 3-amino-4-hydroxyphenylacetate (5.43 g, 0.03 mol) was suspended in toluene (60 ml) and 1,1′-thiocarbonyldiimidazole (5.34 g, 0.03 mol) was added. The resultant mixture was stirred for 30 minutes, then acetic acid (10 ml) was added and the mixture was heated under reflux for 3 hours. The mixture was cooled to room temperature and the solvent was removed in vacuo. The residue was partitioned between water and ethyl acetate The organic extract was dried over magnesium sulfate, filtered and the filtrate was evaporated to give methyl (2,3-dihydro-2-thioxo-5-benzoxazolyl)acetate (6,2 g) as a light brown solid, m.p. 120-122° C.

reactant | Methyl 3-amino-4-hydroxyphenylacetate | 0.03 mol, 5.43 g | NC=1C=C(C=CC1O)CC(=O)OC | C9H11NO3
reactant | 1,1′-thiocarbonyldiimidazole | 0.03 mol, 5.34 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | methyl (2,3-dihydro-2-thioxo-5-benzoxazolyl)acetate | 6,2 g | S=C1OC2=C(N1)C=C(C=C2)CC(=O)OC | C10H9NO3S
